US04153607
5.5 parts of 2-methyl-4-amino-5-cyano-thiazole in 50 parts of dimethylformamide and 10 parts of triethylamine are reacted with 3 parts of hydrogen sulfide as described in Example 1(a). 4.0 parts of 2-methyl-4-amino-5-thiocarbamoylthiazole (58% of theory) of melting point 209°-213° C. are obtained.

reactant | 2-methyl-4-amino-5-cyano-thiazole | CC=1SC(=C(N1)N)C#N | C5H5N3S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | hydrogen sulfide | S | H2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-methyl-4-amino-5-thiocarbamoylthiazole | 58% | CC=1SC(=C(N1)N)C(N)=S | C5H7N3S2
